US07439368B2
3-Cyano-4-hydroxybenzoic acid (4-morpholinyl)amide (10 g, 43.1 mmol), sodium iodide (3.2 g, 21.3 mmol), potassium carbonate (17.9 g, 129 mmol) and tetramethylammonium chloride (0.47 g, 4.29 mmol) are suspended in acetone (125 mL) and water (15 mL), and the mixture is refluxed for 1 hour. After cooling to 30° C., chloroacetic acid (8.1 g, 86.2 mmol) is added. The mixture is refluxed for 5 hours, cooled to 30° C., and thereto are added potassium carbonate (11.9 g, 86.2 mmol) and chloroacetic acid (8.1 g, 86.2 mmol) successively. The mixture is refluxed for 3 hours, cooled to 30° C., and thereto are added potassium carbonate (11.9 g, 86.2 mmol) and chloroacetic acid (8.1 g, 86.2 mmol) successively. The mixture is refluxed for 3 hours, and thereto is added water (140 mL, 14 V), followed by addition of conc. hydrochloric acid (35 mL, 0.40 mol) at 40° C. or below. The mixture is stirred at 20° C. for one hour. The precipitated crystals are collected by filtration, and dried with a conical dryer to give 3-cyano-4-carboxymethoxybenzoic acid (4-morpholinyl)amide (11.6 g, 93.0%, content: 96.6%). Mp: 205-206° C.

reactant | 3-Cyano-4-hydroxybenzoic acid (4-morpholinyl)amide | 43.1 mmol, 10 g | N1(CCOCC1)NC(C1=CC(=C(C=C1)O)C#N)=O | C12H13N3O3
reactant | sodium iodide | 21.3 mmol, 3.2 g | [I-].[Na+]
reactant | potassium carbonate | 129 mmol, 17.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid | 86.2 mmol, 8.1 g | ClCC(=O)O | C2H3ClO2
reactant | potassium carbonate | 86.2 mmol, 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid | 86.2 mmol, 8.1 g | ClCC(=O)O | C2H3ClO2
reactant | potassium carbonate | 86.2 mmol, 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid | 86.2 mmol, 8.1 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 0.40 mol, 35 mL | Cl | ClH
catalyst | tetramethylammonium chloride | 4.29 mmol, 0.47 g | [Cl-].C[N+](C)(C)C
solvent | acetone | 125 mL | CC(=O)C | C3H6O
solvent | water | 15 mL | O | H2O
solvent | water | 140 mL | O | H2O
product | 3-cyano-4-carboxymethoxybenzoic acid (4-morpholinyl)amide | 11.6 g | N1(CCOCC1)NC(C1=CC(=C(C=C1)OCC(=O)O)C#N)=O | C14H15N3O5
